US04057416
A solution of 27.4 g of 5-amino-4-cyano-3-(methylthio)isothiazole, 9.7 g of methyl isocyanate, and 50 drops of dibutyltin diacetate in 150 ml of tetrahydrofuran was heated under reflux during 16 hours. Comparative thin-layer chromatography indicated the reaction to be 50% complete. An additional 10 ml of methyl isocyanate and 20 drops of dibutyltin diacetate were added and the heating continued for eight hours. Comparative thinlayer chromatography indicated that the reaction was still only 50% complete. An additional 10 g of methyl isocyanate were added to the reaction mixture, and the heating was continued overnight. The solid was isolated from the slurry by filtration to give a first crop of 1-methyl-3-(4-cyano-3-(methylthio)-5-isothiazolyl)urea, m.p. 250° (resolidified and m.p. 290°-292°). The filtrate was evaporated to give a tan solid. This solid was recrystallized from ethanol to give a second crop of product. The mother liquor was concentrated to give a third crop. The total yield was 33.4 g of 1-methyl-3-(4-cyano-3-(methylthio)-5-isothiazollyl)urea. Recrystallization from ethanol gave a solid, m.p. 248°-250°, resolidified, m.p. 286°. The nmr spectrum was consistent with the assigned structure.

reactant | 5-amino-4-cyano-3-(methylthio)isothiazole | 27.4 g | NC1=C(C(=NS1)SC)C#N | C5H5N3S2
reactant | methyl isocyanate | 9.7 g | CN=C=O | C2H3NO
reactant | methyl isocyanate | 10 ml | CN=C=O | C2H3NO
reactant | methyl isocyanate | 10 g | CN=C=O | C2H3NO
catalyst | dibutyltin diacetate | 50 drops | C(C)(=O)[O-].C(C)(=O)[O-].C(CCC)[Sn+2]CCCC
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
catalyst | dibutyltin diacetate | 20 drops | C(C)(=O)[O-].C(C)(=O)[O-].C(CCC)[Sn+2]CCCC
product | 1-methyl-3-(4-cyano-3-(methylthio)-5-isothiazolyl)urea | CNC(=O)NC1=C(C(=NS1)SC)C#N | C7H8N4OS2
